US07179801B2
To phosphoric trichloride (136 ml) was added N,N-dimethylformamide (339 ml) under ice-cooling, and the mixture was stirred under ice-cooling for 30 minutes. To the mixture was added a solution of 2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1-carbaldehyde (100 g) in N,N-dimethylformamide (200 ml), and the mixture was stirred at 80° C. for 1.5 hours. The reaction mixture was carefully added to a mixture of ethyl acetate and water under ice-cooling, and the mixture was adjusted to pH 6. The organic layer was dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The residue was triturated with diisopropyl ether and dried in vacuo to give 2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1,7-dicarbaldehyde (102 g).

reactant | phosphoric trichloride | 136 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | 2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1-carbaldehyde | 100 g | N1(CCN2N=CC=C21)C=O | C6H7N3O
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 339 ml | CN(C=O)C | C3H7NO
product | 2,3-dihydro-1H-imidazo[1,2-b]pyrazole-1,7-dicarbaldehyde | 102 g | N1(CCN2N=CC(=C21)C=O)C=O | C7H7N3O2
